US06656946B2
4-[(3-Chloro-4-fluorophenyl)amino]-6-cyclopentylmethoxy-7-methylcarbonyloxy-quinazoline
4.03 g of 4-chloro-6-cyclopentylmethoxy-7-methylcarbonyloxy-quinazoline are suspended in 70 ml of isopropanol and 1.95 g of 3-chloro-4-fluoro-aniline are added. The reaction mixture is refluxed for two hours under a nitrogen atmosphere. After cooling to ambient temperature the light-coloured precipitate formed is suction filtered, washed with a little isopropanol and dried in the air.

reactant | 4-chloro-6-cyclopentylmethoxy-7-methylcarbonyloxy-quinazoline | 4.03 g | ClC1=NC=NC2=CC(=C(C=C12)OCC1CCCC1)OC(=O)C | C16H17ClN2O3
reactant | 3-chloro-4-fluoro-aniline | 1.95 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
solvent | isopropanol | 70 ml | C(C)(C)O | C3H8O
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-cyclopentylmethoxy-7-methylcarbonyloxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OCC1CCCC1)OC(=O)C | C22H21ClFN3O3
